US07491714B2
(g) 2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanone
9.0 g (32.7 mmol) of 4-(1-Butoxy-vinyl)-8-fluoro-6-methoxy-quinoline was dissolved in 200 mL of 3:1 THF/water. 6.4 g of N-bromosuccinimide was added and the contents stirred at rt for 3 hrs. Solvent was then removed by rotary-evaporation. The crude material was purified by flash chromatography on silica gel using 20% ethyl acetate/hexanes as the eluent to give 8.5 g (88%) of the desired product. 1H NMR (CDCl3, 400 MHz) 8.92 (d, 1H), 7.71 (m, 2H), 7.18 (d, 1H), 4.55 (s, 2H), 3.94 (s, 3H).

reactant | 4-(1-Butoxy-vinyl)-8-fluoro-6-methoxy-quinoline | 32.7 mmol, 9.0 g | C(CCC)OC(=C)C1=CC=NC2=C(C=C(C=C12)OC)F | C16H18FNO2
reactant | N-bromosuccinimide | 6.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF water | 200 mL | C1CCOC1.O
product | 2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanone | 8.5 g, 88% | BrCC(=O)C1=CC=NC2=C(C=C(C=C12)OC)F | C12H9BrFNO2
